US06492370B1
To a solution of N-(benzyloxycarbonyl)-4-(mesyloxy)butylamine (2.51 g) in anhydrous dimethylformamide (28 ml) are added 2.0 M dimethylamine THF solution 12.5 ml. anhydrous potassium carbonate (1.72 g) and sodium iodide (3.74 g), and the mixture is stirred at room temperature overnight. Water is added to the reaction mixture, and the whole is extracted with ether. The organic layer is washed with water and saturated brine successively, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography to give 1.59 g (76%) of N-(benzyloxycarbonyl)-4-(dimethylamino)butylamine.

reactant | N-(benzyloxycarbonyl)-4-(mesyloxy)butylamine | 2.51 g | C(C1=CC=CC=C1)OC(=O)NCCCCOS(=O)(=O)C | C13H19NO5S
reactant | dimethylamine THF | 2.0 M, 12.5 ml | CNC.C1CCOC1
reactant | potassium carbonate | 1.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 3.74 g | [I-].[Na+]
solvent | dimethylformamide | 28 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-(benzyloxycarbonyl)-4-(dimethylamino)butylamine | 1.59 g, 76% | C(C1=CC=CC=C1)OC(=O)NCCCCN(C)C | C14H22N2O2
